### PR TITLE
feat: Bispinor results

### PR DESCRIPTION
**Pull request by jstoobysmith**

### CODE REVIEW

File: HepLean/Tensors/ComplexLorentz/Bispinors/Basic.lean [hunk 1]
```diff
@@ -45,9 +96,70 @@ lemma tensorNode_contrBispinorDown (p : complexContr) :
...
+    rw [perm_perm]
+  apply perm_congr
+  · apply OverColor.Hom.ext
+    ext x
+    match x with
+    | (0 : Fin 2) => rfl
+    | (1 : Fin 2) => rfl
+  · rfl
+
+set_option maxHeartbeats 400000 in
```
Comment (jstoobysmith) [inline HepLean/Tensors/ComplexLorentz/Bispinors/Basic.lean]: This lemma should be adjusted to remove this maxHeartbeats
